US07271263B2
Into a reactor were fed 2.4 g (12.2 m moles) of 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone, 1.7 g (9.98 m moles) of 2-ethylphenylhydrazine hydrochloride, 1.4 g (10.2 m moles) of zinc chloride and 10 ml of toluene, followed by refluxing for 2 hours with heating. After the completion of the reaction, the reaction mixture was cooled to room temperature. Thereto were added water and ethyl acetate and phase separation was made. The ethyl acetate layer was concentrated. The concentrate was subjected to silica gel column chromatography separation (developing solvent: n-hexane/ethyl acetate) to obtain 2.38 g (8.01 m moles) of 3-(4,6-dimethoxypyrimidine-2-yl)-2-methyl-7-ethylindole. Yield: 80.3% Melting point: 90.3 to 94.8° C.

reactant | 1-(4,6-dimethoxypyrimidine-2-yl)-2-propanone | 2.4 g | COC1=NC(=NC(=C1)OC)CC(C)=O | C9H12N2O3
reactant | 2-ethylphenylhydrazine hydrochloride | 1.7 g | Cl.C(C)C1=C(C=CC=C1)NN
catalyst | zinc chloride | 1.4 g | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4,6-dimethoxypyrimidine-2-yl)-2-methyl-7-ethylindole | 2.38 g, Yield: 80.3% | COC1=NC(=NC(=C1)OC)C1=C(NC2=C(C=CC=C12)CC)C | C17H19N3O2
